US06407235B1
A solution of 200 mg 4-(tert-butoxycarbonylamino-methyl)-benzoic acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester in 3.8 ml TFA was stirred for 1 hour at 0° C. The solvent was removed under reduced pressure and the crude product was diluted in diethylether and 3 drops of a saturated HCl-solution in diethylether were added. Filtration yielded 120 mg (0.22 mmol, 67%) 4-aminomethyl-benzoic acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester; hydrochloride(1:2) as colorless crystalls.

reactant | 4-(tert-butoxycarbonylamino-methyl)-benzoic acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester | 200 mg | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)CNC(=O)OC(C)(C)C)=O)O | C33H40N2O7S
solvent | TFA | 3.8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-aminomethyl-benzoic acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester | 0.22 mmol, 120 mg, 67% | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)CN)=O)O | C28H32N2O5S
